US05721347
D) 5-(ρ-chlorobenzoyl)-4-methylpyrrole-3-acetic acid
A solution of 1.4 g. (0.004 mole) of 5-(ρ-chlorobenzoyl)-4-methyl-2-carboxypyrrole-3-acetic acid in 25 ml. quinoline is heated overnight at 160° C. under nitrogen. The reaction is poured into ice acidified with hydrochloric acid. The mixture is extracted with chloroform, and the organic phase is extracted with a saturated solution of sodium bicarbonate. The basic solution is made acidic with dilute hydrochloric acid, and the resulting solid, 5-(ρ-chlorobenzoyl)-4-methylpyrrole-3-acetic acid, is filtered and purified by recrystallization from isopropyl alcohol, M.P. 145°-147° C.

reactant | 5-(ρ-chlorobenzoyl)-4-methyl-2-carboxypyrrole-3-acetic acid | 0.004 mole | ClC1=CC=C(C(=O)C2=C(C(=C(N2)C(=O)O)CC(=O)O)C)C=C1 | C15H12ClNO5
reactant | quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | hydrochloric acid | Cl | ClH
product | 5-(ρ-chlorobenzoyl)-4-methylpyrrole-3-acetic acid | ClC1=CC=C(C(=O)C2=C(C(=CN2)CC(=O)O)C)C=C1 | C14H12ClNO3
